US07344702B2
Synthesis of 4-(2-hydroxy-2-(4-tert-butylphenyl) ethoxy) quinazoline
4-(2-tetrahyropyranyloxy-2-(4-tert-butylphenyl) ethoxy) quinazoline (0.25 g, 0.615 mmol) is dissolved in 5 ml ethanol and pyridinium-p-toluenesulfonate (15.4 mg, 0.061 mmol) is added to it. The solution is heated to 55° C. and stirred at that temperature for 4 hours. The ethanol is removed and the crude is purified by flash chromatography (silica gel; ethyl acetate/hexanes).

reactant | 4-(2-tetrahyropyranyloxy-2-(4-tert-butylphenyl) ethoxy) quinazoline | 0.615 mmol, 0.25 g | O1C(CCCC1)OC(COC1=NC=NC2=CC=CC=C12)C1=CC=C(C=C1)C(C)(C)C | C25H30N2O3
reactant | pyridinium-p-toluenesulfonate | 0.061 mmol, 15.4 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-hydroxy-2-(4-tert-butylphenyl) ethoxy) quinazoline | OC(COC1=NC=NC2=CC=CC=C12)C1=CC=C(C=C1)C(C)(C)C | C20H22N2O2
